US07834205B2
Synthesis of 4-Bromo-5-methoxy-2,6-dimethyl-1-indanone
Bromine (6 mL, 11.7 mmol) was added at 0° C. to a mixture of 5-methoxy-2,6-dimethyl-1-indanone (22 g, 11.7 mmol), NaOAc (27 g) and tetrabutylammonium bromide (0.5 g) in CH2Cl2 (100 mL) and H2O (200 mL). After 16 h, 1 mL of Br2 and 6 g of NaOAc were added. After 24 h stirring, the organic phase was separated, washed with water, 10% aq. Na2SO3, aq. NaHCO3, dried over MgSO4 and evaporated. The residue was recrystallized from hexane. Yield=24.7 g (78.4%).

reactant | Bromine | 11.7 mmol, 6 mL | BrBr | Br2
reactant | 5-methoxy-2,6-dimethyl-1-indanone | 11.7 mmol, 22 g | COC=1C=C2CC(C(C2=CC1C)=O)C | C12H14O2
reactant | NaOAc | 27 g | CC(=O)[O-].[Na+]
reactant | Br2 | 1 mL | BrBr | Br2
reactant | NaOAc | 6 g | CC(=O)[O-].[Na+]
catalyst | tetrabutylammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 200 mL | O | H2O
product | 4-Bromo-5-methoxy-2,6-dimethyl-1-indanone | BrC1=C2CC(C(C2=CC(=C1OC)C)=O)C | C12H13BrO2
